US05700819
The procedure of Example 22-i) was repeated using 1,3-biscyanomethyl-5-bromobenzene (1.9 g, 8.1 mmol) and 2-amino-3,4,6-trifluorothiophenol hydrochloride (1.74 g, 8.1 mmol) and the resultant product was crystallized from isopropyl ether to give 3-[(4,5,7-trifluorobenzothiazol-2-yl)methyl]-5-bromophenylacetonitrile (532 mg, 18%) as a colorless powder.

reactant | 1,3-biscyanomethyl-5-bromobenzene | 8.1 mmol, 1.9 g | C(#N)CC1=CC(=CC(=C1)Br)CC#N | C10H7BrN2
reactant | 2-amino-3,4,6-trifluorothiophenol hydrochloride | 8.1 mmol, 1.74 g | Cl.NC1=C(C(=CC(=C1F)F)F)S
product | 3-[(4,5,7-trifluorobenzothiazol-2-yl)methyl]-5-bromophenylacetonitrile | 532 mg, 18% | FC1=C(C=C(C2=C1N=C(S2)CC=2C=C(C=C(C2)Br)CC#N)F)F | C16H8BrF3N2S
